US07875715B2
Intermediate 102 4-Methylsulfonyl-2-aminophenol
The title compound was prepared by reacting 2-methoxy-5-methylsulfonyl aniline (5.0 g, 24.8 mmol) with boron tribromide (26 mmol, 26 mL, 1M in dichloromethane) in chloroform (30 m L) at 0 C.°. After 20 minutes, the reaction was quenched with sodium bicarbonate and the ph of the aqueous phase was adjusted to pH 7 and extracted with ethyl acetate. Concentration under reduced pressure gave 690 mg of product as an orange solid (15%).

reactant | 2-methoxy-5-methylsulfonyl aniline | 24.8 mmol, 5.0 g | COC1=C(N)C=C(C=C1)S(=O)(=O)C | C8H11NO3S
reactant | boron tribromide | 26 mmol, 1M, 26 mL | B(Br)(Br)Br | BBr3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Methylsulfonyl-2-aminophenol | CS(=O)(=O)C1=CC(=C(C=C1)O)N | C7H9NO3S
